US07745229B2
A mixture containing n-butanol (20 mL), 4-diethylamino salicylaldehyde (1.4 g, 7.2 mmol), ethyl nitroacetate (0.8 mL, 7.2 mmol), molecular sieves 4 Å (100 mg), piperidine (0.1 mL) and acetic acid (0.2 mL) was refluxed for a period of 24 h. Upon cooling to room temperature, a bright yellow solid formed, which was collected and dissolved in DMF (15 mL) at 80° C. It was filtered again to remove the molecular sieves. The filtrate, upon addition to 100 ml of ice-cold water, yielded 3-nitro-7-diethylamino coumarin as a bright yellow solid: 1.40 g, 73%. A small amount of this compound was recrystallized from DMF to give an analytical sample; mp 193-195° C. 1H-NMR (CDCl3, 300 MHz) δ 1.27 (t, J=7.14 Hz, 6H), 3.48 (q, J=7.86 Hz, 4H), 6.50 (s, 1H), 6.70 (d, J=6.71 Hz, 1H), 7.42 (d, J=7.42 Hz, 2H), 8.72 (s, 1H). HRMS m/e calculated for MH+ C13H14N2O4 263.1041; found 263.1032.

reactant | n-butanol | 20 mL | C(CCC)O | C4H10O
reactant | 4-diethylamino salicylaldehyde | 7.2 mmol, 1.4 g | C(C)N(C=1C=C(C(C=O)=CC1)O)CC | C11H15NO2
reactant | ethyl nitroacetate | 7.2 mmol, 0.8 mL | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 3-nitro-7-diethylamino coumarin | [N+](=O)([O-])C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | C13H14N2O4
